US08871774B2
Formation of N-((1R,3S)-3-((5-fluoro-2-(1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)cyclohexyl)-1-methyl-1H-imidazole-4-carboxamide (25)
To a solution of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[5,4-b]pyridine, 45, (0.259 g, 0.532 mmol) and N-[(1R,3S)-3-[(2-chloro-5-fluoro-pyrimidin-4-yl)amino]cyclohexyl]-1-methyl-imidazole-4-carboxamide, 24, (0.150 g, 0.425 mmol) in 2-Me-THF (7.1 mL) and water (1.4 mL) was added K3PO4 (0.316 g, 1.488 mmol). The solution was degassed for 10 minutes under flow of nitrogen. Pd2(dba)3 (0.027 g, 0.030 mmol) and dicyclohexyl-[2-(2,4,6-triisopropylphenyl)-phenyl]phosphane (0.030 g, 0.064 mmol) were added and solution was again degassed under flow of nitrogen. The reaction tube was sealed and heated to 80° C. for 2 hours. The mixture was cooled to room temperature and diluted with water (10 mL). The organic phase was extracted with ethyl acetate, washed with brine (10 mL). The crude was dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by silica gel chromatography (0-7% MeOH [2N NH3] in ethyl acetate) to give the desired compound: LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=2.78 min (M+H)=678.73.

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[5,4-b]pyridine | CC1(OB(OC1(C)C)C1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C31H30BN3O2
reactant | N-[(1R,3S)-3-[(2-chloro-5-fluoro-pyrimidin-4-yl)amino]cyclohexyl]-1-methyl-imidazole-4-carboxamide | ClC1=NC=C(C(=N1)N[C@@H]1C[C@@H](CCC1)NC(=O)C=1N=CN(C1)C)F | C15H18ClFN6O
reactant | K3PO4 | 1.488 mmol, 0.316 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dicyclohexyl-[2-(2,4,6-triisopropylphenyl)-phenyl]phosphane | 0.064 mmol, 0.030 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | Pd2(dba)3 | 0.030 mmol, 0.027 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 1.4 mL | O | H2O
product | N-((1R,3S)-3-((5-fluoro-2-(1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)cyclohexyl)-1-methyl-1H-imidazole-4-carboxamide | FC=1C(=NC(=NC1)C1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N[C@@H]2C[C@@H](CCC2)NC(=O)C=2N=CN(C2)C | C40H36FN9O
